US08633200B2
A suspension of 3-(5,6,7,8-tetrahydronaphthalen-2-yl)-1H-pyrazol-5-amine (6 g, 28.1 mmol), 1-ethyl 4-methyl 2-acetylsuccinate (24.52 mL, 141 mmol) and Ts-OH.H2O (0.096 g, 0.506 mmol) in o-xylene (200 mL) was heated at 150° C. (oil bath temp) for 16 h. (Note: Mixture became homogeneous and in about 15 min slowly yellow solid started crashing out of the reaction.). Then, the reaction mixture was cooled, diluted with hexanes (300 mL), filtered, washed with hexanes and dried to afford methyl 2-(7-hydroxy-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate (8.4 g, 23.90 mmol, 85% yield) as light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ: 12.35 (s, 1H), 7.78-7.62 (m, 2H), 7.15 (d, J=8.5 Hz, 1H), 6.52 (s, 1H), 3.64 (s, 3H), 3.58 (s, 2H), 2.82-2.77 (m, 4H), 2.33 (s, 3H), 1.78 (t, J=3.0 Hz, 4H). LCMS (M+H)=352.3.

reactant | 3-(5,6,7,8-tetrahydronaphthalen-2-yl)-1H-pyrazol-5-amine | 28.1 mmol, 6 g | C1=C(C=CC=2CCCCC12)C1=NNC(=C1)N | C13H15N3
reactant | 1-ethyl 4-methyl 2-acetylsuccinate | 141 mmol, 24.52 mL | C(C)(=O)C(C(=O)OCC)CC(=O)OC | C9H14O5
solvent | o-xylene | 200 mL | CC=1C=CC=CC1C | C8H10
catalyst | Ts-OH.H2O | 0.506 mmol, 0.096 g | S(=O)(=O)(C1=CC=C(C)C=C1)O.O
product | methyl 2-(7-hydroxy-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate | 23.90 mmol, 8.4 g, 85% yield | OC1=C(C(=NC=2N1N=C(C2)C2=CC=1CCCCC1C=C2)C)CC(=O)OC | C20H21N3O3
